US06780471B2
A solution of 4-(methyldimethoxysilyl)styrene (1.52 g, 7.2 mmol) and 4-bromol-(methyldiisopropyloxysilyl)benzene (1.9 g, 7.2 mmol) was dissolved in 15 ml toluene. Palladium acetate (81 mg, 3.6 10−4 mol), dry triethylamine (4.39 g, 43.2 mmol) and tri-orthotolylphosphine (TOP) (438 mg, 1.5 10−3 mol) were added all at once successively. The suspension was heated during 24 hours at 120° C. The resulting suspension was filtered at room temperature over silanized silica. The solvent was pumped off under vacuum and a yellow powder was recovered. It was recrystallized in pentane. 4,4′-bis(methyldimethoxysilyl)stilbene (1.54 g, 3.96 mmol) was obtained (yield 55%). 1H NMR (CDCl3, δ, ppm) 7.65 (4H, d); 7.61 (4H, d), 7.19 (2H, s), 3.60 (12H, s); 0.39 (3H, s).

reactant | 4-(methyldimethoxysilyl)styrene | 7.2 mmol, 1.52 g | C[Si](C1=CC=C(C=C)C=C1)(OC)OC | C11H16O2Si
reactant | triethylamine | 43.2 mmol, 4.39 g | C(C)N(CC)CC | C6H15N
reactant | tri-orthotolylphosphine | 10−3 mol, 438 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium acetate | 10−4 mol, 81 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4,4′-bis(methyldimethoxysilyl)stilbene | 3.96 mmol, 1.54 g, yield 55% | C[Si](C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[Si](OC)(OC)C)(OC)OC | C20H28O4Si2
